US06720423B2
4-Bromo-2-(2-chloro-1,1-dimethyl-ethyl)phenol (Intermediate 1)
To a stirred, cooled (ice bath) mixture of 4-bromophenol (0.512 g, 3 mmol) and 3-chloro-2-methylpropene (0.32 mL, 3.3 mmol), concentrated sulfuric acid (0.1 mL, 1.5 mmol) was added and the dark reaction mixture was stirred for 1 h. The reaction mixture was diluted with cold water and extracted with ether. The ethereal extract was washed with brine, dried over anhydrous sodium sulfate, filtered and evaporated to an oil. Flash column chromatography of the oil over silica gel (230-400 mesh) using 5% ethyl acetate in hexane as the eluent afforded the title compound as an oil (0.33 g, 42.6%). Some dialkylated product was also formed and some starting material was recovered.

reactant | 4-bromophenol | 3 mmol, 0.512 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | 3-chloro-2-methylpropene | 3.3 mmol, 0.32 mL | ClCC(=C)C | C4H7Cl
reactant | sulfuric acid | 1.5 mmol, 0.1 mL | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | 4-Bromo-2-(2-chloro-1,1-dimethyl-ethyl)phenol | 0.33 g, 42.6% | BrC1=CC(=C(C=C1)O)C(CCl)(C)C | C10H12BrClO
